* C:\_dev\electronics\aha\ltspice\pow.asc
XU5 N003 0 N004 opamp Aol=100K GBW=10Meg
R14 N004 N003 22k
R15 N003 N010 22k
R16 P001 N003 2k
C5 P001 N004 100n
XX2 N011 N013 NC_01 N014 cone-velocity-2 NC_02 0 NC_03 NC_04 speaker-closed-box
XU6 N012 N004 N011 opamp Aol=100K GBW=10Meg
R17 N013 0 0.47
R18 N011 N012 22k
R19 N012 0 1k
R20 N013 N012 100
V1 N014 N016 PULSE(0 1 10m 1u 1u 10m 20m 3) AC 1
T1 out-2 0 N016 0 Td=0.15m Z0=100k
R21 out-2 0 100k
E1 mic-out-2 0 out-2 0 0.05
XU1 N001 0 N002 opamp Aol=100K GBW=10Meg
R1 N002 N001 22k
R2 N001 N005 22k
R3 P002 N001 2k
C1 P002 N002 100n
XX1 N006 N008 NC_05 N009 cone-velocity-1 NC_06 0 NC_07 NC_08 speaker-closed-box
XU2 N007 N002 N006 opamp Aol=100K GBW=10Meg
R4 N008 0 0.47
R5 N006 N007 22k
R6 N007 0 1k
R7 N008 N007 100k
V2 N009 N015 PULSE(0 1 10m 1u 1u 10m 20m 3) AC 1
T2 out-1 0 N015 0 Td=0.15m Z0=100k
R8 out-1 0 100k
E2 mic-out-1 0 out-1 0 0.05
E3 N005 0 mic-out-1 0 0.35
E4 N010 0 mic-out-2 0 1

* block symbol definitions
.subckt speaker-closed-box + - a p v x pp f p-
Re + N002 {Re}
H1 N003 - H5 {-Bl}
Rms N004 f {Rms}
Cms N005 N004 {Cms}
L§Mmd N005 N006 {Mmd} Rser=0
Le N002 N003 {Le}
Cab N008 - {Cab}
Rab N001 N008 {Rab}
Rar1 p N007 {Rar1}
L§Mar p pp {Mar}
H5 f - H1 {Bl}
Ral N001 - {Ral}
L§Mab p- N001 {Mab}
Car pp N007 {Car}
Rar2 N007 pp {Rar2}
E1 N006 - p p- {Sd}
F1 p- p E1 {Sd}
F2 0 N009 E1 {1}
F3 0 N010 E1 {1}
F4 0 x E1 {1}
R1 N009 0 1
L1 N010 0 1
C1 x 0 1
R2 x 0 1000k
E2 a 0 N010 0 1
E3 v 0 N009 0 1
.param Re=5.6
.param Le=0.84m
.param Bl=7.7
.param Sd=21.6m
.param Vb=28m
.param Cab={Vb/roc2}
.param Rar1={roc/Sd}
.param Rar2={0.441*Rar1}
.param Car={1.89*Sd*rd/roc2}
.param Mar={8*ro/(3*pi**2*rd)}
.param rd={sqrt(Sd/pi)}
.param t=20
.param kt={1+(t/273.15)}
.param ro={1.293/kt}
.param cel={331.2*sqrt(kt)}
.param roc={ro*cel}
.param roc2={roc*cel}
.param Lb=400m
.param Hb=1000m
.param Sb={Hb*Lb}
.param Pb={Vb/Sb}
.param a={Sd/Sb}
.param b={((Pb*a**2/rd)+(8*(1-a)/pi))/3}
.param Mab={b*ro/(pi*rd)}
.param Ral={Ql*sqrt((Mab/Cab))}
.param Ql=100
.param Qa=10
.param Rab={Ral/(Ql*Qa)}
.param pi=3.141836
.param Cms={Vas/(roc2*Sd**2)}
.param Mmd={Mms-Mmr}
.param Vas=66.2m
.param ws={2*pi*fs}
.param fs=34
.param Mms={1/(Cms*ws**2)}
.param Mmr={8*ro*Sd*rd/(3*pi)}
.param Rms={(ws*Mms/Qts)-Rme}
.param Rme={Bl**2/Re}
.param Qts=0.37
.ends speaker-closed-box

.lib opamp.sub
;.tran 0 100m 0 1u
.ac oct 100 1 10k
* High output impedance amp
* low output impedance amp
* delay
.backanno
.end
